US07989438B2
Step 2: N-benzyl-2-{[(7S)-11-carboxy-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl]oxy}-N-methylethanaminium chloride
To a suspension of methyl (7S)-14-cyclohexyl-7-hydroxy-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (prepared as described in International patent application WO2006/046030) in toluene (0.05 M), were added 10 eq of 30% w/w aq. NaOH followed by 0.25 eq of NBu4Br. After stirring for 30 min, 2.5 eq of N-benzyl-2-chloro-N-methylethanaminium chloride were added and the reaction mixture was stirred at 60° C. for 16 h. The reaction mixture was concentrated in vacuo, and the residue purified by RP-HPLC (Waters Xterra prep. C18 column, 5 um, 19×100 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried in the presence of HCl to afford the title compound (25%) as a white powder. (ES+) m/z 539 (M+H)+.

reactant | methyl (7S)-14-cyclohexyl-7-hydroxy-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@@H](COC3=C(C21)C=CC=C3)O)C(=O)OC | C25H27NO4
reactant | NaOH | [OH-].[Na+]
reactant | N-benzyl-2-chloro-N-methylethanaminium chloride | 2.5 eq | [Cl-].C(C1=CC=CC=C1)[NH+](CCCl)C
solvent | toluene | 0.05 M | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-2-{[(7S)-11-carboxy-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl]oxy}-N-methylethanaminium chloride | 25% | [Cl-].C(C1=CC=CC=C1)[NH+](CCO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C | InChI=1S/C34H38N2O4.ClH/c1-35(21-24-10-4-2-5-11-24)18-19-39-27-22-36-30-20-26(34(37)38)16-17-28(30)32(25-12-6-3-7-13-25)33(36)29-14-8-9-15-31(29)40-23-27;/h2,4-5,8-11,14-17,20,25,27H,3,6-7,12-13,18-19,21-23H2,1H3,(H,37,38);1H/t27-;/m0./s1
